US08084448B2
A. Bromo-(2-iodophenyl)-acetic Acid Methyl Ester
A mixture of (2-iodophenyl)-acetic acid methyl ester (14.5 g, 52.5 mmol), NBS (18.7 g, 105 mmol) and AIBN (1.72 g, 10.5 mmol) in CCl4 (300 mL) is refluxed for 10 h. The mixture is cooled to RT and the precipitate filtered. The filtrate is evaporated to give the title compound.

reactant | (2-iodophenyl)-acetic acid methyl ester | 52.5 mmol, 14.5 g | COC(CC1=C(C=CC=C1)I)=O | C9H9IO2
reactant | NBS | 105 mmol, 18.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 10.5 mmol, 1.72 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Bromo-(2-iodophenyl)-acetic Acid Methyl Ester | COC(C(C1=C(C=CC=C1)I)Br)=O | C9H8BrIO2
